US07939527B2
2-(4-{[(1S,4S)-5-Acetyl-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl}phenoxy)-5-methyl[1,3]thiazolo[5,4-b]pyridine
To sodium 4-{[(1S,4S)-5-acetyl-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl}phenolate (170 mg, 0.63 mmol) was added 2-chloro-5-methyl[1,3]thiazolo[5,4-b]pyridine (117 mg, 0.63 mmol) and DMF (6.3 mL). The solution was stirred for 16 h, filtered, and purified by preparative reverse phase HPLC to provide the desired product (140 mg, 56%). 1H NMR (400 MHz, CDCl3): 7.81 (d, J=8.2, 1H), 7.46-7.39 (m, 2H), 7.33-7.28 (m, 2H), 7.18 (d, J=8.3, 1H), 4.79 (s, 0.5H), 4.24 (s, 0.5H), 3.82-3.72 (m, 2.5H), 3.60-3.53 (m, 1.5H), 3.30 (ddd, J=13.3, 10.3, 2.1, 1H), 3.02 (dd, J=9.5, 2.1, 0.5H), 2.85 (dd, J=9.7, 2.2, 0.5H), 2.78 (d, J=9.7, 0.5H), 2.61 (s, 3H), 2.57 (dd, J=9.5, 1.2, 0.5H), 2.08 (s, 1.5H), 2.03-1.96 (m, 2H), 1.91 (d, J=9.8, 0.5H), 1.81 (d, J=9.7, 0.5H), 1.67 (d, J=10.0, 0.5H). MS (ESI): mass calcd. for C21H22N4O2S, 394.15; m/z found, 395.1 [M+H]+.

reactant | sodium 4-{[(1S,4S)-5-acetyl-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl}phenolate | 0.63 mmol, 170 mg | C(C)(=O)N1[C@@H]2CN([C@H](C1)C2)CC2=CC=C(C=C2)[O-].[Na+]
reactant | 2-chloro-5-methyl[1,3]thiazolo[5,4-b]pyridine | 0.63 mmol, 117 mg | ClC=1SC2=NC(=CC=C2N1)C | C7H5ClN2S
solvent | DMF | 6.3 mL | CN(C)C=O | C3H7NO
product | 2-(4-{[(1S,4S)-5-Acetyl-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl}phenoxy)-5-methyl[1,3]thiazolo[5,4-b]pyridine | 140 mg, 56% | C(C)(=O)N1[C@@H]2CN([C@H](C1)C2)CC2=CC=C(OC=1SC3=NC(=CC=C3N1)C)C=C2 | C21H22N4O2S
